US04471116
1-Benzyloxy-4-[3-(1-methylethyl)aminopropoxy]benzene (11.5 g) was added to an hydrogenation bottle containing 250 ml of ethanol and hydrogenated over 1 g of 10% palladium on carbon (room temperature; starting pressure of 50 psi). After the theoretical uptake of hydrogen, the mixture was filtered and the solvent distilled in vacuo giving 8.1 g of 4-[3-(1-methylethyl)aminopropoxy]phenol, mp 92°-100° (96.4% pure by gas chromatography). Mass spectrum was compatible.

reactant | 1-Benzyloxy-4-[3-(1-methylethyl)aminopropoxy]benzene | 11.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCNC(C)C | C19H25NO2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-[3-(1-methylethyl)aminopropoxy]phenol | 8.1 g | CC(C)NCCCOC1=CC=C(C=C1)O | C12H19NO2
